US07189851B2
C. 4-[2-(Ethoxycarbonyl)-5-(4-fluorophenyl)-3-oxo-1-pentenyl]benzoic acid (1:1 mixture of E and Z isomers)
A mixture of 4-carboxybenzaldehyde (2.07 g, 13.81 mmol), ethyl 5-(4-fluorophenyl)-3-oxopentanoate (3.29 g, 13.81 mmol) and piperidine (0.25 mL, 2.53 mmol) in benzene (60 mL) was heated at reflux overnight under Dean-Stark conditions. The reaction mixture was concentrated and the crude material was dissolved in EtOAc. The EtOAc solution was washed with 0.1 M HCl and brine and then dried, filtered, and concentrated. Recrystallization of the resulting material from EtOAc/hexanes produced the title compound as a yellow solid (1.3 g, 3.51 mmol, 25%): 1H NMR (400 MHz, CDCl3) δ 8.09 (d, 2H, J=8), 7.98 (d, 2H, J=8), 7.70 (s, 1H), 7.60 (s, 1H), 7.49 (d, 2H, J=8), 7.32 (d, 2H, J=8), 7.16 (dd, 2H, J=8, 6), 7.07 (dd, 2H, J=8, 6), 6.97 (t, 2H, J˜9), 6.91 (t, 2H, J˜9), 4.29 (q, 2H, J=7), 4.27 (q, 2H, J=7), 3.03 (m, 2H), 2.99 (m, 2H), 2.90 (m, 2H), 2.84 (m, 2H), 1.29 (t, 3H, J=7), 1.23 (t, 3H, J=7) ppm (carboxyl proton not found).

reactant | 4-carboxybenzaldehyde | 13.81 mmol, 2.07 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | ethyl 5-(4-fluorophenyl)-3-oxopentanoate | 13.81 mmol, 3.29 g | FC1=CC=C(C=C1)CCC(CC(=O)OCC)=O | C13H15FO3
reactant | piperidine | 2.53 mmol, 0.25 mL | N1CCCCC1 | C5H11N
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
product | 4-[2-(Ethoxycarbonyl)-5-(4-fluorophenyl)-3-oxo-1-pentenyl]benzoic acid | 3.51 mmol, 1.3 g, 25% | C(C)OC(=O)C(=CC1=CC=C(C(=O)O)C=C1)C(CCC1=CC=C(C=C1)F)=O | C21H19FO5
